US08228602B2
Biotin Cadaverine (Sigma Aldrich) was conjugated to Cy5 NHS ester (Amersham Biosciences) in DMSO by adding triethylamine for one hour. The conjugate was purified on a Sephadex LH20 column (Amersham Biosciences) by collecting the first ˜500 μl of the coloured fraction. The concentration of the conjugate was determined by preparing a standard curve of Cy5 NHS Ester dye by diluting it in steps of five (resulting in 205, 41.1, 8.21, 1.64, 0.329 and 0 nM). An aliquot of the conjugate was diluted by a factor of 100. Based on the standard curve, we evaluated the concentration to be 11 mM. For biotin assay experiments the biotin conjugate was diluted to 2.2, 1.1, 0.22, 0.044 nM. In an assay experiment, the scanner was operated in line-scanning mode (˜2 sec/line) across the streptavidin line, resulting in data collection also from areas with no biotin. After a few seconds of scanning, 40 μl of biotin solution was dispensed on the chip and data was recorded for about 3.5 minutes. A new chip was used for each experiment.

reactant | Biotin Cadaverine | C1[C@H]2[C@@H]([C@@H](S1)CCCCC(=O)NCCCCCN)NC(=O)N2 | C15H28N4O2S
reactant | Cy5 NHS ester | CC1(C2=CC=CC=C2[N+](=C1/C=C/C=C/C=C/3\C(C4=CC=CC=C4N3CCCCCC(=O)ON5C(=O)CCC5=O)(C)C)C)C
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | DMSO | CS(=O)C | C2H6OS
product | biotin | OC(=O)CCCC[C@@H]1SC[C@@H]2NC(=O)N[C@H]12 | C10H16N2O3S
